US06627630B1
Production of t-Butyl 2-[6-[3-[4-(Diphenylmethoxy)piperidino]propoxy]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate Difumarate
70 mg of 60% sodium hydride dispersion in mineral oil was dissolved in 5 ml of N,N-dimethylformamide; 570 mg of 4-(diphenylmethoxy)-1-piperidinepropanol was added, followed by stirring at room temperature under reduced pressure for 30 minutes. After 520 mg of t-butyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate was added, followed by stirring at room temperature for 8 hours. Ice water was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (195:5:1). The desired fraction was collected and dissolved in 5 ml of ethyl acetate; a solution of 233 mg of fumaric acid in 10 ml of methanol was added, followed by concentration. The crystal precipitated was collected by filtration, washed with acetone and dried to yield 631 mg of the title compound.

reactant | sodium hydride | 70 mg | [H-].[Na+]
reactant | 4-(diphenylmethoxy)-1-piperidinepropanol | 570 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCO)C1=CC=CC=C1 | C21H27NO2
reactant | t-butyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate | 520 mg | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)OC(C)(C)C)(C)C | C14H18ClN3O2
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | t-Butyl 2-[6-[3-[4-(Diphenylmethoxy)piperidino]propoxy]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate Difumarate | 631 mg | C(\C=C\C(=O)O)(=O)O.C(\C=C\C(=O)O)(=O)O.C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)C=C(N2)C(C(=O)OC(C)(C)C)(C)C)C2=CC=CC=C2 | InChI=1S/C35H44N4O4.2C4H4O4/c1-34(2,3)43-33(40)35(4,5)29-25-39-30(36-29)17-18-31(37-39)41-24-12-21-38-22-19-28(20-23-38)42-32(26-13-8-6-9-14-26)27-15-10-7-11-16-27;2*5-3(6)1-2-4(7)8/h6-11,13-18,25,28,32H,12,19-24H2,1-5H3;2*1-2H,(H,5,6)(H,7,8)/b;2*2-1+
